US07423147B2
Step C. 2-(4-Piperidin-1-yl-but-1-ynyl)-6-piperidin-1-ylmethyl-pyridine.
The title compound was prepared in a manner similar to that described in Example 18, Step D, using 2-bromo-6-piperidin-1-ylmethyl-pyridine and 1-but-3-ynyl-piperidine (56%). MS (ESI): exact mass calcd. for C20H29N3, 311.46; m/z found, 312.5 [M+H]+. 1H NMR (500 MHz, CDCl3): 7.54 (t, J=7.7, 1H), 7.38 (d, J=7.7, 1H), 7.20 (d, J=7.4, 1H), 3.58 (s, 2H), 2.67-2.57 (m, 4H), 2.46-2.34 (m, 8H), 1.60-1.50 (m, 8H), 1.44-1.36 (m, 4H).

reactant | 2-bromo-6-piperidin-1-ylmethyl-pyridine | BrC1=NC(=CC=C1)CN1CCCCC1 | C11H15BrN2
reactant | 1-but-3-ynyl-piperidine | C(CC#C)N1CCCCC1 | C9H15N
product | 2-(4-Piperidin-1-yl-but-1-ynyl)-6-piperidin-1-ylmethyl-pyridine | N1(CCCCC1)CCC#CC1=NC(=CC=C1)CN1CCCCC1 | C20H29N3
